### PR TITLE
feat(HilbertProblems): 17

### LINKED ISSUE #1675: Hilbert's problem 17
### What is the conjecture

https://en.wikipedia.org/wiki/Hilbert%27s_seventeenth_problem

For a polynomial $f \in \mathbb{R}[x_1, \dots, x_n]$, if $f$ takes only nonnegative values, can we express it as a sum of squares of rational functions in $x_1, \dots, x_n$?

The conjecture is resolved by Artin. The statement is false if we replace rationals with polynomials, and there are many related results.

### Prerequisites needed
Mathematical context that needs to be formalized so that this conjecture can be added.
Consider linking any open Mathlib issues / PRs here.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-12

### Choose either option
- [x] I plan on adding this conjecture to the repository
- [ ] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by seewoo5**
Closes #1675. There are more statements on wikipedia that might be possible to be added - feel free to give such suggestions.

Also, following [Zulip](https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/Hilbert.20problems/near/568509994), I made new directory `HilbertProblems` for Hilbert's problems.

### CODE REVIEW

File: FormalConjectures/Wikipedia/Hilbert17.lean [hunk 1]
```diff
@@ -0,0 +1,83 @@
...
+*References:*
+- [Wikipedia](https://en.wikipedia.org/wiki/Hilbert%27s_seventeenth_problem)
+- Motzkin, "The arithmetic-geometric inequality". In Shisha, Oved (ed.). Inequalities. Academic Press. pp. 205–224.
+-/
+
+open Real MvPolynomial
+
+namespace Hilbert17
+
+abbrev MvRatFunc (σ K: Type*) [CommRing K] := FractionRing (MvPolynomial σ K)
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/Hilbert17.lean]:
```suggestion
abbrev MvRatFunc (σ K : Type*) [CommRing K] := FractionRing (MvPolynomial σ K)
```

File: FormalConjectures/Wikipedia/Hilbert17.lean [hunk 2]
```diff
@@ -0,0 +1,83 @@
...
+
+@[category research solved, AMS 12]
+theorem hilbert_17th_problem (n : ℕ) (f : MvPolynomial (Fin n) ℝ)
+    (h : ∀ x : Fin n → ℝ, f.eval x ≥ 0) :
+    ∃ (m : ℕ) (g : Fin m → MvRatFunc (Fin n) ℝ),
+      f • (∑ i, (g i) ^ 2) = ∑ i, (g i) ^ 2 := by
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/Hilbert17.lean]: Surely this implies `f = 1`?

File: FormalConjectures/Wikipedia/Hilbert17.lean [hunk 3]
```diff
@@ -0,0 +1,83 @@
...
+  sorry
+
+/--
+The statement is false in general if we restrict to polynomials. The polynomial (by Motzkin)
+$f(x, y) = x^4 y^2 + x^2 y^4 - 3 x^2 y^2 + 1$ takes only nonnegative values but cannot be
+written as a sum of squares of polynomials.
+-/
+noncomputable def f : MvPolynomial (Fin 2) ℝ :=
+  (X 0) ^ 4 * (X 1) ^ 2 + (X 0) ^ 2 * (X 1) ^ 4 - 3 * (X 0) ^ 2 * (X 1) ^ 2 + 1
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/Hilbert17.lean]: Maybe you did this for readability, but I find these brackets somewhat distracting:
```suggestion
  X 0 ^ 4 * X 1 ^ 2 + X 0 ^ 2 * X 1 ^ 4 - 3 * X 0 ^ 2 * X 1 ^ 2 + 1
```
and everywhere else too

File: FormalConjectures/Wikipedia/Hilbert17.lean (hunk 2 above)
Comment (seewoo5) [reply FormalConjectures/Wikipedia/Hilbert17.lean]: That was huge mistake, now fixed.

File: FormalConjectures/HilbertProblems/17.lean [hunk 4]
```diff
@@ -0,0 +1,81 @@
...
+@[category high_school, AMS 12]
+theorem f_nonneg : ∀ x y : ℝ, 0 ≤ f.eval ![x, y] := by
+  intro x y
+  unfold f
+  simp
+  exact Real.motzkin_polynomial_nonneg x y
+
+@[category high_school, AMS 12]
+theorem f_not_sum_of_squares :
+    ¬∃ (n : ℕ) (S : Fin n → MvPolynomial (Fin 2) ℝ), f = ∑ i, (S i) ^ 2 := by
```
Comment (YaelDillies) [inline FormalConjectures/HilbertProblems/17.lean]:
```suggestion
    ¬∃ (n : ℕ) (S : Fin n → MvPolynomial (Fin 2) ℝ), f = ∑ i, S i ^ 2 := by
```
Same below

File: FormalConjectures/HilbertProblems/17.lean [hunk 5]
```diff
@@ -0,0 +1,81 @@
...
+-/
+def Hilbert17thProblemHomogenousPoly (n d : ℕ) : Prop :=
+  ∀ (f : MvPolynomial (Fin n) ℝ) (hhom : f.IsHomogeneous n)
+    (hdeg : f.totalDegree = 2 * d)
+    (hnonneg : ∀ x : Fin n → ℝ, 0 ≤ f.eval x), ∃ (m : ℕ) (g : Fin m → MvPolynomial (Fin n) ℝ),
+      f = ∑ i, (g i) ^ 2
+
+@[category research solved, AMS 12]
+theorem hilbert_17th_problem_poly : ∀ n d, Hilbert17thProblemHomogenousPoly n d ↔
+    n = 2 ∨ d = 1 ∨ (n = 3 ∧ d = 2) := by
```
Comment (YaelDillies) [inline FormalConjectures/HilbertProblems/17.lean]:
```suggestion
    n = 2 ∨ d = 1 ∨ n = 3 ∧ d = 2 := by
```

**Review by YaelDillies — APPROVED** [review]
Thanks!
